US05298522
6-Chloro-5 -fluoro-2-oxindole-1-carboxamide
To a slurry of 6-chloro-5-fluoro-2-oxindole (0.04 mole) in acetonitrile (80 ml) was added chlorosulfonyl isocyanate (6.65 g, 0.047 mole) and the mixture was stirred for 45 minutes. Water (100 ml) was then added and the aqueous mixture was stirred for one hour. The precipitate which formed was filtered off and recrystallized from acetonitrile to give 0.92 g of the title product. Extraction of the filtrate from the aqueous reaction mixture with ethyl acetate (300 ml) followed by drying the extract over MgSO4 and then evaporating it under reduced pressure gave additional product. Recrystallization from acetonitrile gave an additional 2.2 g of product, m.p. 229°-231° C.

reactant | 6-chloro-5-fluoro-2-oxindole | 0.04 mole | ClC1=C(C=C2CC(NC2=C1)=O)F | C8H5ClFNO
reactant | chlorosulfonyl isocyanate | 0.047 mole, 6.65 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | Water | 100 ml | O | H2O
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 6-Chloro-5 -fluoro-2-oxindole-1-carboxamide | 0.92 g | ClC1=C(C=C2CC(N(C2=C1)C(=O)N)=O)F | C9H6ClFN2O2
